US05885986
0.30 g (0.00082 mol) of 7-chloro-3-(4-chloromethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one was dissolved in 40 ml of tetrahydrofuran, treated with 2.3 ml (0.0165 mol) of diisopropylamine and boiled at 150° in an autoclave for 20 hrs. The solution was completely freed from the solvents, the residue was chromatographed over silica gel with ethyl acetate/ethanol 9:1 as the eluent and recrystallized from hot diisopropyl ether. There was obtained 0.11 g (31%) of 7-chloro-3-(4-diisopropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 164°-166°.

reactant | 7-chloro-3-(4-chloromethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | 0.00082 mol, 0.30 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1OC=C(N1)CCl)C)=O | C16H12Cl2N4O2
reactant | diisopropylamine | 0.0165 mol, 2.3 ml | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-(4-diisopropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.11 g, 31% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1OC=C(N1)CN(C(C)C)C(C)C)C)=O | C22H26ClN5O2
